US05468699
A silicalite-titania-silica hybrid membrane was prepared using the sol gel technique and suction method as follows. A silicalite substrate was impregnated as in Example 1. 0.7892 g of 37% aqueous solution HCl was diluted in 31.0028 g of H2O and a mixture of 2.5560 g of Ti(OiPr)4 and 0.2080 g of Si(OEt)4 was added to the HCl--H2O solution drop wise with continuous stirring. A white hybrid titanium-silicon hydroxide precipitate was formed and the mixture was stirred for an additional hour. HNO3 was then added to the above mixture to bring the pH down from approximately 4 to below 2. Thereafter the mixture was sonicated in a supersonic bath at approximately 80° C. After approximately one hour of sonication, a highly dispersed, stable titania-silica hybrid colloidal suspension was obtained. A silicalite-titania-silica hybrid membrane was formed using the sol as in Example 1.

reactant | HCl | Cl | ClH
reactant | Ti(OiPr)4 | 2.5560 g | CC(C)O[Ti](OC(C)C)(OC(C)C)OC(C)C
reactant | Si(OEt)4 | 0.2080 g | [Si](OCC)(OCC)(OCC)OCC | C8H20O4Si
solvent | H2O | 31.0028 g | O | H2O
product | titanium-silicon hydroxide | [OH-].[Si+4].[Ti+4].[OH-].[OH-].[OH-].[OH-].[OH-].[OH-].[OH-] | InChI=1S/8H2O.Si.Ti/h8*1H2;;/q;;;;;;;;2*+4/p-8
